US04284642
A mixture of 86 g (0.435 moles) of N-(β-chloropropyl)-2,6-dimethyl-aniline, prepared as described in point (a) above, 110 ml (107.4 g, 0.88 moles) of 2,6-dimethylaniline and 4.2 g (25 mmoles) of potassium iodide is stirred at 140° to 145° C. for 3 hours under nitrogen atmosphere. The mixture is allowed to cool to about 80° C., 300 ml of isopropanol are added, the resulting mixture is allowed to cool to room temperature under stirring, and then allowed to stand overnight. The separated precipitate is filtered off, washed with cold (+5° C.) isopropanol and dried. 67.1 g (42.4%) of crude 1,2-bis(2',6'-dimethylphenyl-amino)-propane hydrochloride (fraction A) are obtained. The filtrate is admixed with 200 ml of 20% aqueous hydrochloric acid, and the mixture is allowed to stand for 24 hours. The separated precipitate is filtered off, washed with water and dried. In this way further 48 g (34.6%) of crude 1,2-bis(2',6'-dimethylphenyl-amino)propane hydrochloride (fraction B) are obtained, thus the total yield is 83.0%. Fractions A and B are combined, dissolved in a mixture of 500 ml of dimethyl formamide and 250 ml of water, and the solution is rendered alkaline (pH=10) with 10 n aqueous sodium hydroxide solution. The solution is admixed with 2 liters of water, the separated precipitate is filtered off, washed with water, and dried. 87.15 g (70.9%) of 1,2-bis(2',6'-dimethylphenyl-amino)-propane (m.p.: 52°-55° C.) are obtained. This product is sufficiently pure to apply it directly in the next step.

reactant | N-(β-chloropropyl)-2,6-dimethyl-aniline | 0.435 moles, 86 g | ClC(CNC1=C(C=CC=C1C)C)C | C11H16ClN
reactant | 2,6-dimethylaniline | 0.88 moles, 110 ml, 107.4 g | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | potassium iodide | 25 mmoles, 4.2 g | [I-].[K+]
solvent | isopropanol | 300 ml | C(C)(C)O | C3H8O
product | 1,2-bis(2',6'-dimethylphenyl-amino)-propane hydrochloride | 67.1 g, 42.4% | Cl.CC1=C(C(=CC=C1)C)NCC(C)NC1=C(C=CC=C1C)C | InChI=1S/C19H26N2.ClH/c1-13-8-6-9-14(2)18(13)20-12-17(5)21-19-15(3)10-7-11-16(19)4;/h6-11,17,20-21H,12H2,1-5H3;1H
